US03984430
5-(4-Acetamidobutyl)-3-methyl-2-thiohydantoin
Using an analogous procedure to Example 1 Nε-acetyl-L-lysine methyl ester may be reacted with methyl isothiocyanate to give the title compound.

reactant | Nε-acetyl-L-lysine methyl ester | COC([C@@H](N)CCCCNC(C)=O)=O | C9H18N2O3
reactant | methyl isothiocyanate | CN=C=S | C2H3NS
product | 5-(4-Acetamidobutyl)-3-methyl-2-thiohydantoin | C(C)(=O)NCCCCC1C(N(C(N1)=S)C)=O | C10H17N3O2S
